US04943580
A mixture of 5.5 parts of ethyl 4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]amino]-1-piperidineacetate, 15 parts of a sodium hydroxide solution 1N, 100 parts of water and 16 parts of ethanol was stirred overnight at room temperature. The reaction mixture was evaporated. The residue was taken up in water, washed with dichloromethane and purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (80:20 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 1 part (19.1%) of 4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]amino]-1-piperidineacetic acid; mp. 227.3° C. (compound 182).

reactant | ethyl 4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]amino]-1-piperidineacetate | C(C)OCCN1C(=NC=2C1=NC=CC2)NC2CCN(CC2)CC(=O)OCC | C19H29N5O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]amino]-1-piperidineacetic acid | 19.1% | C(C)OCCN1C(=NC=2C1=NC=CC2)NC2CCN(CC2)CC(=O)O | C17H25N5O3
